US06967208B2
1-(4-Methoxy-phenyl)-3-methyl-6-[4-(2-oxo-2H-pyridin-1-yl)-phenyl]-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one
To 3-hydroxymethyl-1-(4-methoxy-phenyl)-6-[4-(2-oxo-2H-pyridin-1-yl)-phenyl]-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one (65 mg, 0.15 mmol) in CH2Cl2 (10 mL) was added triethylsilane (0.1 mL) and TFA (0.05 mL). After 2 h more triethylsilane (0.2 mL) and TFA (0.1 mL) were added and the reaction was stirred for 72 h. The reaction was not proceeding so the solvents were stripped and replaced with acetic acid (10 mL), triethylsilane (0.5 mL), and TFA (0.1 mL). The reaction was heated 24 h at 80° C. Mass spectra indicated only the acetyl product formed. The solvents were removed. The acetyl group was removed by stirring with LiOH (0.1 g) in THF/H2O for 3 h. The reaction was quenched with 1N HCl, extracted with EtOAc, and dried (MgSO4) to recover the alcohol. To the alcohol in CHCl3 was added PBr3 and the reaction was stirred 24 h. The reaction was quenched with ice water, extracted with CHCl3, and dried (Na2SO4). To the crude bromide were added activated Zn (80 mg) and acetic acid (10 mL) and heated to 120° C. for 24 h. The product was purified by silica gel chromatography using 0-3% MeOH in CH2Cl2 and recrystallized from CH3CN/H2O to afford 22 mg (35%); Mass Spec (M+H)+ 427.3.

reactant | 3-hydroxymethyl-1-(4-methoxy-phenyl)-6-[4-(2-oxo-2H-pyridin-1-yl)-phenyl]-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one | 0.15 mmol, 65 mg | OCC1=NN(C=2C(N(CCC21)C2=CC=C(C=C2)N2C(C=CC=C2)=O)=O)C2=CC=C(C=C2)OC | C25H22N4O4
reactant | triethylsilane | 0.1 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 0.05 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 0.2 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 0.1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | acetic acid | 10 mL | C(C)(=O)O | C2H4O2
reactant | triethylsilane | 0.5 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | TFA | 0.1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | CH2Cl2 | 10 mL | C(Cl)Cl | CH2Cl2
product | 1-(4-Methoxy-phenyl)-3-methyl-6-[4-(2-oxo-2H-pyridin-1-yl)-phenyl]-1,4,5,6-tetrahydro-pyrazolo[3,4-c]pyridin-7-one | COC1=CC=C(C=C1)N1N=C(C2=C1C(N(CC2)C2=CC=C(C=C2)N2C(C=CC=C2)=O)=O)C | C25H22N4O3
